US09403807B2
Step A: tert-Butyl1-(2-(4-chlorophenyl)-1-hydroxybutan-2-yl)-1H-indol-4-ylcarbamate
To a solution of methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate (5 g, 11.3 mmol), as described in Example 3 Step A, in tetrahydrofuran (50 mL) was added lithium aluminium hydride (644 mg, 16.95 mmol) at 0° C. The mixture was gradually warmed to room temperature and stirred for 4 h. Water (10 mL) was carefully added to the reaction mixture, then extracted with ethyl acetate. The combined organic layers were washed with brine (30 mL), dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was purified by silica gel chromatography eluting with PE/EA (30/1 to 10/1, v/v) to give the title compound as a colorless amorphous solid. LC/MS m/z=359.9 [M-tBu+H]+.

reactant | methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | 11.3 mmol, 5 g | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C24H27ClN2O4
reactant | lithium aluminium hydride | 16.95 mmol, 644 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 10 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-Butyl1-(2-(4-chlorophenyl)-1-hydroxybutan-2-yl)-1H-indol-4-ylcarbamate | C(C)(C)(C)OC(NC1=C2C=CN(C2=CC=C1)C(CO)(CC)C1=CC=C(C=C1)Cl)=O | C23H27ClN2O3
